US04838925
6,8-Dimethylimidazo[1,2-b]pyridazine
A mixture of 25 g (148 mmol) of bromoacetaldehyde dimethyl acetal, 5 mL of water and 5 mL of 48% HBr was refluxed 2 h. After cooling, it was poured into 50 mL of ethanol. Solid sodium bicarbonate was added until bubbling ceased. The mixture was filtered and to the filtrate was added 7.5 g (61 mmol) of 3-amino-4,6-dimethylpyridazine. After stirring 16 h, the ethanol was removed with a rotary evaporator. The residue was triturated with ethanol to give a brown solid which was dissolved in water and washed with dichloromethane. The aqueous layer was brought to pH 9 with sodium bicarbonate and extracted with dichloromethane. Drying (Na2SO4) and solvent removal with a rotary evaporator gave 4 g of the title compound as a brown solid, m.p. 70°-74° C.

reactant | bromoacetaldehyde dimethyl acetal | 148 mmol, 25 g | COC(CBr)OC | C4H9BrO2
reactant | HBr | 5 mL | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 3-amino-4,6-dimethylpyridazine | 61 mmol, 7.5 g | NC=1N=NC(=CC1C)C | C6H9N3
solvent | water | O | H2O
solvent | water | 5 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 6,8-Dimethylimidazo[1,2-b]pyridazine | 4 g | CC=1C=C(C=2N(N1)C=CN2)C | C8H9N3
